US04284631
A mixture of 1,4-bis(chloromethyl)benzene (25 g.), N-hydroxyphthalimide (23.4 g.) and triethylamine (14.5 g.) in acetonitrile (200 ml.) was heated under reflux for 1.5 hours. The reaction mixture was poured into ice-water (1 l.) and the precipitates were collected by filtration. The precipitates were washed with ethanol and dried to give N-(4-chloromethylbenzyloxy)phthalimide (25.5 g.).

reactant | 1,4-bis(chloromethyl)benzene | 25 g | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
reactant | N-hydroxyphthalimide | 23.4 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triethylamine | 14.5 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-(4-chloromethylbenzyloxy)phthalimide | 25.5 g | ClCC1=CC=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C16H12ClNO3
